US06610707B1
1-(Bromomethyl)cycloheptane
The subtitle compound was prepared by the method of Preparation 9 from cycloheptylmethanol and carbon tetrabromide. The crude product was purified by fractional distillation, b.pt. 115° C.-120° C. @ 30mmHg to afford 1-(bromomethyl)cycloheptane as an oil.

reactant | cycloheptylmethanol | C1(CCCCCC1)CO | C8H16O
reactant | carbon tetrabromide | C(Br)(Br)(Br)Br | CBr4
product | 1-(bromomethyl)cycloheptane | BrCC1CCCCCC1 | C8H15Br
